US06143764
N-(2,5-Difluorophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [273]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (100 mg) was dissolved in toluene (10 ml) with heat, 2,5-difluorophenyl isocyanate (120 μl) was added, and the admixture was refluxed with heat for 30 minutes. The separated crystals were filtered and then washed with toluene to obtain 132 mg of the title compound (yield: 87%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 2,5-difluorophenyl isocyanate | 120 μl | FC1=C(C=C(C=C1)F)N=C=O | C7H3F2NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,5-Difluorophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 132 mg, yield: 87% | FC1=C(C=C(C=C1)F)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H19F2N3O4
